US06696445B2
E. (2-Aminoethyl)[2-methyl-9-(2,4,6-trimethylphenyl)-pyridino[2,3-b]indolizin-4-yl]amine
Heat a solution of 4-chloro-2-methyl-9-(2,4,6-trimethylphenyl)pyridino[2,3-b]-indolizine (0.35 g, 1.04 mmol), and ethylene diamine (0.32 g, 1.04 mmol) in dry NMP (3 mL) at 100° C. for 5 h. Pour the cooled mixture onto water (30 mL) and extract twice with EtOAc (30 mL). Wash the combined extract with brine (30 mL), dry, and evaporate in vacuo. Purify by preparative TLC (20% MeOH in CH2Cl2 with 1% ammonium hydroxide) to obtain the title compound as a colorless oil.

reactant | 4-chloro-2-methyl-9-(2,4,6-trimethylphenyl)pyridino[2,3-b]-indolizine | 1.04 mmol, 0.35 g | ClC1=CC(=NC=2C=C3C(=CC=CN3C21)C2=C(C=C(C=C2C)C)C)C | C21H19ClN2
reactant | ethylene diamine | 1.04 mmol, 0.32 g | C(CN)N | C2H8N2
solvent | NMP | 3 mL | CN1CCCC1=O | C5H9NO
product | (2-Aminoethyl)[2-methyl-9-(2,4,6-trimethylphenyl)-pyridino[2,3-b]indolizin-4-yl]amine | NCCNC1=CC(=NC=2C=C3C(=CC=CN3C21)C2=C(C=C(C=C2C)C)C)C | C23H26N4
